US09126979B2
[4-(4-Chloro-3-dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-3-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenoxy]-acetic acid
A solution of [4-(4-chloro-3-dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-3-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenoxy]-acetic acid ethyl ester (10 mg, 0.016 mmol) in sodium hydroxide (2N, 0.039 mL) and methanol (0.1 mL) was stirred at ambient temperature for 12 hours. Added aqueous HCl solution until pH is about 5. The crude material was purified by HPLC to afford the title compound (1.9 mg, 20% yield). MS (ESI) [m/e, (M+H)+]=611.5. 1H NMR (400 MHz, chloroform-d) δ ppm 6.78-7.37 (m, 7H), 4.08-5.51 (m, 5H), 2.33-3.75 (m, 8H), 2.13-2.33 (m, 3H), 0.60-1.72 (m, 14H).

reactant | [4-(4-chloro-3-dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-3-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenoxy]-acetic acid ethyl ester | 0.016 mmol, 10 mg | C(C)OC(COC1=CC(=C(C=C1)N1N=C(C(=C1C)Cl)C(N(CCCC)CCCC)=O)C(=O)N1CC2=CC=CC=C2C[C@H]1CO)=O | C34H43ClN4O6
reactant | HCl | Cl | ClH
solvent | sodium hydroxide | 2N, 0.039 mL | [OH-].[Na+]
solvent | methanol | 0.1 mL | CO | CH4O
product | [4-(4-Chloro-3-dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-3-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenoxy]-acetic acid | 1.9 mg, 20% yield | ClC=1C(=NN(C1C)C1=C(C=C(OCC(=O)O)C=C1)C(=O)N1CC2=CC=CC=C2C[C@H]1CO)C(N(CCCC)CCCC)=O | C32H39ClN4O6
